US03948973
Ethyl 2-[p-(2,2-dibromocyclopropyl)phenoxy]-2-methylpropionate was prepared from 23.4 g. of ethyl 2-(p-vinylphenoxy)-2-methylpropionate, 39.2 g. of potassium t-butoxide and 198 g. of bromoform according to the procedure described above in Example 1, part (b). The product was isolated and hydrolyzed without further purification.

reactant | ethyl 2-(p-vinylphenoxy)-2-methylpropionate | C(=C)C1=CC=C(OC(C(=O)OCC)(C)C)C=C1 | C14H18O3
reactant | potassium t-butoxide | CC(C)([O-])C.[K+]
reactant | bromoform | C(Br)(Br)Br | CHBr3
product | Ethyl 2-[p-(2,2-dibromocyclopropyl)phenoxy]-2-methylpropionate | BrC1(C(C1)C1=CC=C(OC(C(=O)OCC)(C)C)C=C1)Br | C15H18Br2O3
